US05859051
Step 1: Preparation of 3-chloro-4-acetamidophenylacetic acid
Acetic anhydride (152 mL, 1.6 moles) was added dropwise to a rapidly stirring mixture of 4-aminophenylacetic acid (195 grams, 1.3 moles) in acetic acid (600 mL) and water (250 mL) at room temperature. After a slight exotherm, the dark brown solution was stirred for one hour at room temperature. The solution was diluted with ethanol (500 mL) and water (250 mL), and a suspension of Calcium hypochlorite (340 grams, 2.3 moles) in water (1L plus 500 mL rinse) was added portionwise. The temperature rose to 50° C. and the mixture was stirred for 16 hours at room temperature. The mixture was poured into ice-water (8 L) and extracted with ethyl acetate (3×2 L). The combined extracts were washed with saturated brine, dried over magnesium sulfate and concentrated in vacuo to a small volume. Hexane was added and the resulting precipitate filtered, washed with hexane and dried to give the title compound(180 grams) as a brown solid

reactant | Acetic anhydride | 1.6 moles, 152 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-aminophenylacetic acid | 1.3 moles, 195 grams | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
reactant | Calcium hypochlorite | 2.3 moles, 340 grams | Cl[O-].[Ca+2].Cl[O-]
solvent | acetic acid | 600 mL | C(C)(=O)O | C2H4O2
solvent | water | 250 mL | O | H2O
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | water | 250 mL | O | H2O
solvent | water | 500 mL | O | H2O
product | 3-chloro-4-acetamidophenylacetic acid | 180 grams | ClC=1C=C(C=CC1NC(C)=O)CC(=O)O | C10H10ClNO3
